US07241778B2
1-Isopropyl-piperidin-4-ol
A solution of 1-isopropyl-piperidin-4-one (51.2 g) in absolute ethanol (350 mL) was treated with sodium borohydride (7.30 g) at a rate not to exceed an internal temperature of 50° C. After 48 h, the solvent was evaporated and the resulting yellow paste was partitioned between DCM (300 mL) and 5% NaOH (300 mL). This mixture was stirred for 6 h and then extracted with DCM (4×100 mL). The combined organic phases were dried (sodium sulfate) and evaporated. Distillation of the yellow oil (bp 68° C., 1.5 mm Hg) gave the title compound as an off-white waxy solid (35.3 g).

reactant | 1-isopropyl-piperidin-4-one | 51.2 g | C(C)(C)N1CCC(CC1)=O | C8H15NO
reactant | sodium borohydride | 7.30 g | [BH4-].[Na+]
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 1-Isopropyl-piperidin-4-ol | C(C)(C)N1CCC(CC1)O | C8H17NO
